US08183255B2
N-(5-fluoro-2-propylpyrimidin-4-yl)-6,6-dimethyl-5-{[(2S)-2,4,5,5-tetramethylpiperazin-1-yl]carbonyl}-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazol-3-amine
To a pressure vessel was added [3-(2-Chloro-5-fluoro-pyrimidin-4-ylamino)-6,6-dimethyl-4,6-dihydro-1H-pyrrolo[3,4-c]pyrazol-5-yl]-((S)-2,4,5,5-tetramethyl-piperazin-1-yl)-methanone (0.150 g, 0.330 mmol), 2-allyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.12 g, 6.66 mmol), cesium carbonate (0.543 g, 1.66 mmol), dichloro[1,1-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.0408 g, 0.0498 mmol), H2O (0.3 mL), and THF (3 mL). The suspension was purged with argon for 2 min, then stirred at 100° C. for 15 h. The cooled solution was filtered to remove undissolved solids and the volatiles removed in vacuo. The residue was redissolved in MeOH (5 mL) and 10% palladium on carbon (0.0400 g, 0.380 mmol) was added. The suspension was evacuated and backfilled with hydrogen for 3 times and allowed to stir for 15 h under hydrogen. The suspension was filtered through Celite, the filter cake washed with CH2Cl2, and the filtrate concentrated. Preparative HPLC provided the desired product I1 as a white solid (0.025 g, 14%).

reactant | [3-(2-Chloro-5-fluoro-pyrimidin-4-ylamino)-6,6-dimethyl-4,6-dihydro-1H-pyrrolo[3,4-c]pyrazol-5-yl]-((S)-2,4,5,5-tetramethyl-piperazin-1-yl)-methanone | 0.330 mmol, 0.150 g | ClC1=NC=C(C(=N1)NC=1C2=C(NN1)C(N(C2)C(=O)N2[C@H](CN(C(C2)(C)C)C)C)(C)C)F | C20H28ClFN8O
reactant | 2-allyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 6.66 mmol, 1.12 g | C(C=C)B1OC(C(O1)(C)C)(C)C | C9H17BO2
reactant | cesium carbonate | 1.66 mmol, 0.543 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | H2O | 0.3 mL | O | H2O
catalyst | palladium on carbon | 0.380 mmol, 0.0400 g | [Pd] | Pd
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(5-fluoro-2-propylpyrimidin-4-yl)-6,6-dimethyl-5-{[(2S)-2,4,5,5-tetramethylpiperazin-1-yl]carbonyl}-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazol-3-amine | FC=1C(=NC(=NC1)CCC)NC=1C2=C(NN1)C(N(C2)C(=O)N2[C@H](CN(C(C2)(C)C)C)C)(C)C | C23H35FN8O
